US06284748B1
Triethylamine (1.1 mmol) was added slowly to an ice-cooled solution of 6-chloro-N9-neopentyl-8-(2-hydroxyphenyl)purine (1 mmol) and diethyl phosphite (1 mmol) in carbontetrachloride. The reaction was stirred at room temperature overnight. Triethylamine hydrochloride was precipitated as a white solid mass. Extraction and chromatography gave diethyl 2-(6-Chloro-N9-neopentylpurin-8-yl)phenyl phosphate.

reactant | Triethylamine | 1.1 mmol | C(C)N(CC)CC | C6H15N
reactant | 6-chloro-N9-neopentyl-8-(2-hydroxyphenyl)purine | 1 mmol | ClC1=C2N=C(N(C2=NC=N1)CC(C)(C)C)C1=C(C=CC=C1)O | C16H17ClN4O
reactant | diethyl phosphite | 1 mmol | P(OCC)(OCC)[O-]
solvent | carbontetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | diethyl 2-(6-Chloro-N9-neopentylpurin-8-yl)phenyl phosphate | P(=O)(OCC)(OCC)OC1=C(C=CC=C1)C=1N(C2=NC=NC(=C2N1)Cl)CC(C)(C)C | C20H26ClN4O4P
